.include ../../../../tech_files/TSMC_180nm.txt

.param SUPPLY=1.8
.global gnd vdd

VDD vdd gnd SUPPLY
vinP3 P3 gnd PULSE(0 SUPPLY 640ns 1ps 1ps 640ns 1280ns)
vinG3 G3 gnd PULSE(0 SUPPLY 320ns 1ps 1ps 320ns  640ns)
vinP2 P2 gnd PULSE(0 SUPPLY 160ns 1ps 1ps 160ns  320ns)
vinG2 G2 gnd PULSE(0 SUPPLY  80ns 1ps 1ps  80ns  160ns)
vinP1 P1 gnd PULSE(0 SUPPLY  40ns 1ps 1ps  40ns   80ns)
vinG1 G1 gnd PULSE(0 SUPPLY  20ns 1ps 1ps  20ns   40ns)
vinP0 P0 gnd PULSE(0 SUPPLY  10ns 1ps 1ps  10ns   20ns)
vinG0 G0 gnd PULSE(0 SUPPLY   5ns 1ps 1ps   5ns   10ns)
VinC0 C0 gnd PULSE(0 SUPPLY 2.5ns 1ps 1ps 2.5ns    5ns)

.option scale=0.09u

.subckt inv_cmos IN w_0_0# gnd vdd OUT
M1000 OUT IN vdd w_0_0# CMOSP w=50 l=2
+  ad=250 pd=110 as=250 ps=110
M1001 OUT IN gnd Gnd CMOSN w=20 l=2
+  ad=100 pd=50 as=100 ps=50
C0 IN vdd 0.02fF
C1 gnd IN 0.05fF
C2 w_0_0# OUT 0.07fF
C3 IN OUT 0.05fF
C4 w_0_0# IN 0.06fF
C5 vdd OUT 0.52fF
C6 gnd OUT 0.21fF
C7 w_0_0# vdd 0.07fF
C8 gnd Gnd 0.06fF
C9 OUT Gnd 0.05fF
C10 vdd Gnd 0.00fF
C11 IN Gnd 0.13fF
C12 w_0_0# Gnd 1.49fF
.ends

.subckt nor_3_cmos a_23_0# w_n6_n6# Y a_7_0# gnd A vdd B C
M1000 a_7_0# A vdd w_n6_n6# CMOSP w=150 l=2
+  ad=1500 pd=620 as=750 ps=310
M1001 Y C a_23_0# w_n6_n6# CMOSP w=150 l=2
+  ad=750 pd=310 as=1500 ps=620
M1002 a_23_0# B a_7_0# w_n6_n6# CMOSP w=150 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 Y A gnd Gnd CMOSN w=20 l=2
+  ad=300 pd=150 as=300 ps=150
M1004 Y B gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 Y C gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 gnd A 0.05fF
C1 w_n6_n6# vdd 0.17fF
C2 B a_7_0# 0.02fF
C3 Y a_23_0# 1.55fF
C4 Y gnd 1.21fF
C5 Y B 0.19fF
C6 vdd a_7_0# 1.55fF
C7 w_n6_n6# C 0.06fF
C8 Y C 0.24fF
C9 w_n6_n6# a_7_0# 0.32fF
C10 a_23_0# C 0.02fF
C11 w_n6_n6# A 0.06fF
C12 Y w_n6_n6# 0.17fF
C13 w_n6_n6# a_23_0# 0.32fF
C14 w_n6_n6# B 0.06fF
C15 Y A 0.05fF
C16 a_23_0# a_7_0# 1.55fF
C17 gnd Gnd 0.23fF
C18 Y Gnd 0.22fF
C19 a_23_0# Gnd 0.00fF
C20 a_7_0# Gnd 0.00fF
C21 vdd Gnd 0.01fF
C22 C Gnd 0.17fF
C23 B Gnd 0.17fF
C24 A Gnd 0.17fF
C25 w_n6_n6# Gnd 9.11fF
.ends

.subckt nand_3_cmos w_n6_n6# a_7_n81# Y gnd A vdd B C a_23_n81#
M1000 Y A vdd w_n6_n6# CMOSP w=50 l=2
+  ad=750 pd=330 as=750 ps=330
M1001 Y C vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1002 Y B vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 a_7_n81# A gnd Gnd CMOSN w=60 l=2
+  ad=600 pd=260 as=300 ps=130
M1004 a_23_n81# B a_7_n81# Gnd CMOSN w=60 l=2
+  ad=600 pd=260 as=0 ps=0
M1005 Y C a_23_n81# Gnd CMOSN w=60 l=2
+  ad=300 pd=130 as=0 ps=0
C0 vdd A 0.02fF
C1 C a_23_n81# 0.10fF
C2 w_n6_n6# A 0.06fF
C3 Y A 0.05fF
C4 C w_n6_n6# 0.06fF
C5 C Y 0.24fF
C6 B w_n6_n6# 0.06fF
C7 Y B 0.19fF
C8 vdd w_n6_n6# 0.25fF
C9 Y a_23_n81# 0.62fF
C10 Y vdd 2.69fF
C11 Y w_n6_n6# 0.22fF
C12 a_7_n81# B 0.10fF
C13 a_7_n81# a_23_n81# 0.62fF
C14 a_7_n81# gnd 0.62fF
C15 a_23_n81# Gnd 0.14fF
C16 a_7_n81# Gnd 0.14fF
C17 gnd Gnd 0.10fF
C18 Y Gnd 0.20fF
C19 vdd Gnd 0.08fF
C20 C Gnd 0.17fF
C21 B Gnd 0.17fF
C22 A Gnd 0.17fF
C23 w_n6_n6# Gnd 3.49fF
.ends

.subckt nor_4_cmos a_23_0# w_n6_n6# Y a_7_0# gnd A vdd B C D a_39_0#
M1000 Y D gnd Gnd CMOSN w=20 l=2
+  ad=400 pd=200 as=400 ps=200
M1001 a_7_0# A vdd w_n6_n6# CMOSP w=200 l=2
+  ad=2000 pd=820 as=1000 ps=410
M1002 a_39_0# C a_23_0# w_n6_n6# CMOSP w=200 l=2
+  ad=2000 pd=820 as=2000 ps=820
M1003 a_23_0# B a_7_0# w_n6_n6# CMOSP w=200 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 Y A gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 Y B gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 Y C gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 Y D a_39_0# w_n6_n6# CMOSP w=200 l=2
+  ad=1000 pd=410 as=0 ps=0
C0 Y a_39_0# 2.06fF
C1 Y B 0.19fF
C2 w_n6_n6# A 0.06fF
C3 Y gnd 1.71fF
C4 w_n6_n6# C 0.06fF
C5 w_n6_n6# a_39_0# 0.42fF
C6 w_n6_n6# B 0.06fF
C7 vdd a_7_0# 2.06fF
C8 w_n6_n6# vdd 0.22fF
C9 a_23_0# a_7_0# 2.06fF
C10 Y D 0.24fF
C11 A gnd 0.05fF
C12 w_n6_n6# a_23_0# 0.42fF
C13 Y w_n6_n6# 0.22fF
C14 w_n6_n6# D 0.06fF
C15 Y A 0.05fF
C16 a_39_0# a_23_0# 2.06fF
C17 w_n6_n6# a_7_0# 0.42fF
C18 Y C 0.19fF
C19 gnd Gnd 0.32fF
C20 Y Gnd 0.30fF
C21 a_39_0# Gnd 0.00fF
C22 a_23_0# Gnd 0.00fF
C23 a_7_0# Gnd 0.00fF
C24 vdd Gnd 0.01fF
C25 D Gnd 0.17fF
C26 C Gnd 0.17fF
C27 B Gnd 0.17fF
C28 A Gnd 0.17fF
C29 w_n6_n6# Gnd 15.33fF
.ends

.subckt nand_cmos w_n6_n6# a_7_n61# Y gnd A vdd B
M1000 a_7_n61# A gnd Gnd CMOSN w=40 l=2
+  ad=400 pd=180 as=200 ps=90
M1001 Y B a_7_n61# Gnd CMOSN w=40 l=2
+  ad=200 pd=90 as=0 ps=0
M1002 Y A vdd w_n6_n6# CMOSP w=50 l=2
+  ad=500 pd=220 as=500 ps=220
M1003 Y B vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
C0 B Y 0.24fF
C1 B w_n6_n6# 0.06fF
C2 vdd A 0.02fF
C3 Y A 0.05fF
C4 w_n6_n6# A 0.06fF
C5 a_7_n61# Y 0.41fF
C6 vdd Y 1.60fF
C7 vdd w_n6_n6# 0.16fF
C8 a_7_n61# B 0.05fF
C9 a_7_n61# gnd 0.45fF
C10 w_n6_n6# Y 0.15fF
C11 a_7_n61# Gnd 0.13fF
C12 gnd Gnd 0.07fF
C13 Y Gnd 0.14fF
C14 vdd Gnd 0.05fF
C15 B Gnd 0.17fF
C16 A Gnd 0.17fF
C17 w_n6_n6# Gnd 2.49fF
.ends

.subckt nand_4_cmos w_n6_n6# a_7_n101# a_7_0# gnd A vdd a_39_n101# B a_23_n101# C
+ D
M1000 a_7_0# D a_39_n101# Gnd CMOSN w=80 l=2
+  ad=400 pd=170 as=800 ps=340
M1001 a_7_0# A vdd w_n6_n6# CMOSP w=50 l=2
+  ad=1000 pd=440 as=1000 ps=440
M1002 a_7_0# C vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 a_7_0# B vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1004 a_7_n101# A gnd Gnd CMOSN w=80 l=2
+  ad=800 pd=340 as=400 ps=170
M1005 a_39_n101# C a_23_n101# Gnd CMOSN w=80 l=2
+  ad=0 pd=0 as=800 ps=340
M1006 a_23_n101# B a_7_n101# Gnd CMOSN w=80 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_7_0# D vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
C0 vdd a_7_0# 3.78fF
C1 C a_7_0# 0.19fF
C2 D a_39_n101# 0.10fF
C3 B a_7_n101# 0.10fF
C4 w_n6_n6# a_7_0# 0.29fF
C5 gnd a_7_n101# 0.82fF
C6 A a_7_0# 0.05fF
C7 D w_n6_n6# 0.06fF
C8 a_23_n101# a_39_n101# 0.82fF
C9 vdd w_n6_n6# 0.34fF
C10 a_23_n101# C 0.10fF
C11 w_n6_n6# C 0.06fF
C12 B a_7_0# 0.19fF
C13 vdd A 0.02fF
C14 w_n6_n6# A 0.06fF
C15 a_23_n101# a_7_n101# 0.82fF
C16 w_n6_n6# B 0.06fF
C17 D a_7_0# 0.24fF
C18 a_39_n101# a_7_0# 0.82fF
C19 a_39_n101# Gnd 0.18fF
C20 a_23_n101# Gnd 0.18fF
C21 a_7_n101# Gnd 0.18fF
C22 gnd Gnd 0.12fF
C23 a_7_0# Gnd 0.02fF
C24 vdd Gnd 0.03fF
C25 D Gnd 0.17fF
C26 C Gnd 0.15fF
C27 B Gnd 0.15fF
C28 A Gnd -0.00fF
C29 w_n6_n6# Gnd 4.48fF
.ends

.subckt nor_cmos w_n6_n6# Y a_7_0# gnd A vdd B
M1000 a_7_0# A vdd w_n6_n6# CMOSP w=100 l=2
+  ad=1000 pd=420 as=500 ps=210
M1001 Y B a_7_0# w_n6_n6# CMOSP w=100 l=2
+  ad=500 pd=210 as=0 ps=0
M1002 Y A gnd Gnd CMOSN w=20 l=2
+  ad=200 pd=100 as=200 ps=100
M1003 Y B gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 w_n6_n6# A 0.06fF
C1 gnd A 0.05fF
C2 Y a_7_0# 1.03fF
C3 Y w_n6_n6# 0.12fF
C4 w_n6_n6# a_7_0# 0.22fF
C5 Y gnd 0.71fF
C6 a_7_0# vdd 1.03fF
C7 w_n6_n6# vdd 0.12fF
C8 Y B 0.24fF
C9 B a_7_0# 0.02fF
C10 B w_n6_n6# 0.06fF
C11 Y A 0.05fF
C12 gnd Gnd 0.15fF
C13 Y Gnd 0.15fF
C14 a_7_0# Gnd 0.00fF
C15 vdd Gnd 0.01fF
C16 B Gnd 0.17fF
C17 A Gnd 0.17fF
C18 w_n6_n6# Gnd 4.50fF
.ends

.subckt nor_5_cmos a_23_0# w_n6_n6# Y a_7_0# gnd A vdd B C D a_39_0# E a_55_0#
M1000 a_7_0# A vdd w_n6_n6# CMOSP w=250 l=2
+  ad=2500 pd=1020 as=1250 ps=510
M1001 a_39_0# C a_23_0# w_n6_n6# CMOSP w=250 l=2
+  ad=2500 pd=1020 as=2500 ps=1020
M1002 a_23_0# B a_7_0# w_n6_n6# CMOSP w=250 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 Y D gnd Gnd CMOSN w=20 l=2
+  ad=500 pd=250 as=500 ps=250
M1004 Y E gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1005 Y A gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 Y E a_55_0# w_n6_n6# CMOSP w=250 l=2
+  ad=1250 pd=510 as=2500 ps=1020
M1007 Y B gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
M1008 a_55_0# D a_39_0# w_n6_n6# CMOSP w=250 l=2
+  ad=0 pd=0 as=0 ps=0
M1009 Y C gnd Gnd CMOSN w=20 l=2
+  ad=0 pd=0 as=0 ps=0
C0 a_23_0# a_39_0# 2.58fF
C1 a_7_0# w_n6_n6# 0.52fF
C2 a_7_0# a_23_0# 2.58fF
C3 w_n6_n6# a_23_0# 0.52fF
C4 Y B 0.19fF
C5 Y E 0.24fF
C6 w_n6_n6# A 0.06fF
C7 A gnd 0.05fF
C8 D a_39_0# 0.02fF
C9 w_n6_n6# C 0.06fF
C10 a_55_0# Y 2.58fF
C11 a_55_0# E 0.02fF
C12 a_23_0# C 0.02fF
C13 w_n6_n6# D 0.06fF
C14 a_7_0# vdd 2.58fF
C15 w_n6_n6# vdd 0.27fF
C16 w_n6_n6# Y 0.27fF
C17 a_7_0# B 0.02fF
C18 w_n6_n6# B 0.06fF
C19 w_n6_n6# E 0.06fF
C20 a_55_0# a_39_0# 2.58fF
C21 Y gnd 2.21fF
C22 Y A 0.05fF
C23 w_n6_n6# a_55_0# 0.52fF
C24 Y C 0.19fF
C25 w_n6_n6# a_39_0# 0.52fF
C26 Y D 0.19fF
C27 gnd Gnd 0.41fF
C28 Y Gnd 0.38fF
C29 a_55_0# Gnd -0.00fF
C30 a_39_0# Gnd -0.00fF
C31 a_23_0# Gnd -0.00fF
C32 a_7_0# Gnd -0.00fF
C33 vdd Gnd 0.01fF
C34 E Gnd 0.17fF
C35 D Gnd 0.17fF
C36 C Gnd 0.17fF
C37 B Gnd 0.17fF
C38 A Gnd 0.17fF
C39 w_n6_n6# Gnd 23.16fF
.ends

.subckt nand_5_cmos a_7_n121# w_n6_n6# a_55_n121# Y gnd a_39_n121# a_23_n121# A vdd
+ B C D E
M1000 Y A vdd w_n6_n6# CMOSP w=50 l=2
+  ad=1250 pd=550 as=1250 ps=550
M1001 Y C vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1002 Y B vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1003 Y E a_55_n121# Gnd CMOSN w=100 l=2
+  ad=500 pd=210 as=1000 ps=420
M1004 a_55_n121# D a_39_n121# Gnd CMOSN w=100 l=2
+  ad=0 pd=0 as=1000 ps=420
M1005 Y E vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1006 Y D vdd w_n6_n6# CMOSP w=50 l=2
+  ad=0 pd=0 as=0 ps=0
M1007 a_7_n121# A gnd Gnd CMOSN w=100 l=2
+  ad=1000 pd=420 as=500 ps=210
M1008 a_39_n121# C a_23_n121# Gnd CMOSN w=100 l=2
+  ad=0 pd=0 as=1000 ps=420
M1009 a_23_n121# B a_7_n121# Gnd CMOSN w=100 l=2
+  ad=0 pd=0 as=0 ps=0
C0 w_n6_n6# A 0.06fF
C1 a_55_n121# a_39_n121# 1.03fF
C2 Y D 0.19fF
C3 Y w_n6_n6# 0.37fF
C4 w_n6_n6# D 0.06fF
C5 vdd A 0.02fF
C6 E a_55_n121# 0.10fF
C7 B a_7_n121# 0.10fF
C8 Y vdd 4.87fF
C9 D a_39_n121# 0.10fF
C10 Y C 0.19fF
C11 w_n6_n6# vdd 0.42fF
C12 Y a_55_n121# 1.03fF
C13 w_n6_n6# C 0.06fF
C14 a_23_n121# a_39_n121# 1.03fF
C15 Y E 0.24fF
C16 gnd a_7_n121# 1.03fF
C17 Y B 0.19fF
C18 C a_23_n121# 0.10fF
C19 w_n6_n6# E 0.06fF
C20 B w_n6_n6# 0.06fF
C21 a_23_n121# a_7_n121# 1.03fF
C22 Y A 0.05fF
C23 a_55_n121# Gnd 0.22fF
C24 a_39_n121# Gnd 0.22fF
C25 a_23_n121# Gnd 0.22fF
C26 a_7_n121# Gnd 0.22fF
C27 gnd Gnd 0.14fF
C28 Y Gnd 0.28fF
C29 vdd Gnd 0.14fF
C30 E Gnd 0.13fF
C31 D Gnd 0.13fF
C32 C Gnd 0.13fF
C33 B Gnd 0.13fF
C34 A Gnd 0.13fF
C35 w_n6_n6# Gnd 5.48fF
.ends


* Top level circuit cla_gen_cmos

Xinv_cmos_3 nand_cmos_0/Y inv_cmos_3/w_0_0# P3 vdd d inv_cmos
Xinv_cmos_4 inv_cmos_4/IN inv_cmos_4/w_0_0# P3 vdd e inv_cmos
Xinv_cmos_5 inv_cmos_5/IN inv_cmos_5/w_0_0# P3 vdd f inv_cmos
Xinv_cmos_6 nand_cmos_1/Y inv_cmos_6/w_0_0# P3 vdd g inv_cmos
Xinv_cmos_7 inv_cmos_7/IN inv_cmos_7/w_0_0# P3 vdd h inv_cmos
Xnor_3_cmos_0 nor_3_cmos_0/a_23_0# nor_3_cmos_0/w_n6_n6# nor_3_cmos_0/Y nor_3_cmos_0/a_7_0#
+ P3 G1 vdd h i nor_3_cmos
Xinv_cmos_8 nand_cmos_2/Y inv_cmos_8/w_0_0# P3 vdd i inv_cmos
Xinv_cmos_9 nand_cmos_3/Y inv_cmos_9/w_0_0# P3 vdd j inv_cmos
Xnand_3_cmos_0 inv_cmos_2/w_0_0# nand_3_cmos_0/a_7_n81# inv_cmos_2/IN P3 G1 vdd P2
+ P3 nand_3_cmos_0/a_23_n81# nand_3_cmos
Xnor_4_cmos_0 nor_4_cmos_0/a_23_0# nor_4_cmos_0/w_n6_n6# nor_4_cmos_0/Y nor_4_cmos_0/a_7_0#
+ P3 e vdd f g G2 nor_4_cmos_0/a_39_0# nor_4_cmos
Xnand_3_cmos_1 inv_cmos_5/w_0_0# nand_3_cmos_1/a_7_n81# inv_cmos_5/IN P3 G0 vdd P2
+ P1 nand_3_cmos_1/a_23_n81# nand_3_cmos
Xnand_3_cmos_2 inv_cmos_7/w_0_0# nand_3_cmos_2/a_7_n81# inv_cmos_7/IN P3 C0 vdd P0
+ P1 nand_3_cmos_2/a_23_n81# nand_3_cmos
Xnand_cmos_0 inv_cmos_3/w_0_0# nand_cmos_0/a_7_n61# nand_cmos_0/Y P3 G2 vdd P3 nand_cmos
Xnand_cmos_1 inv_cmos_6/w_0_0# nand_cmos_1/a_7_n61# nand_cmos_1/Y P3 G1 vdd nand_cmos_1/B
+ nand_cmos
Xnand_cmos_2 inv_cmos_8/w_0_0# nand_cmos_2/a_7_n61# nand_cmos_2/Y P3 P1 vdd nand_cmos_2/B
+ nand_cmos
Xinv_cmos_11 nor_4_cmos_0/Y inv_cmos_11/w_0_0# P3 vdd C3 inv_cmos
Xnand_4_cmos_0 inv_cmos_1/w_0_0# nand_4_cmos_0/a_7_n101# inv_cmos_1/IN P3 G0 vdd nand_4_cmos_0/a_39_n101#
+ P1 nand_4_cmos_0/a_23_n101# nand_4_cmos_0/C P3 nand_4_cmos
Xinv_cmos_10 nor_5_cmos_0/Y inv_cmos_10/w_0_0# P3 vdd C4 inv_cmos
Xnand_cmos_3 inv_cmos_9/w_0_0# nand_cmos_3/a_7_n61# nand_cmos_3/Y P3 C0 vdd P0 nand_cmos
Xnor_cmos_0 nor_cmos_0/w_n6_n6# nor_cmos_0/Y nor_cmos_0/a_7_0# P3 G0 vdd j nor_cmos
Xnand_4_cmos_1 inv_cmos_4/w_0_0# nand_4_cmos_1/a_7_n101# inv_cmos_4/IN P3 C0 vdd nand_4_cmos_1/a_39_n101#
+ P0 nand_4_cmos_1/a_23_n101# P1 P2 nand_4_cmos
Xinv_cmos_12 nor_cmos_0/Y inv_cmos_12/w_0_0# P3 vdd C1 inv_cmos
Xnor_5_cmos_0 nor_5_cmos_0/a_23_0# nor_5_cmos_0/w_n6_n6# nor_5_cmos_0/Y nor_5_cmos_0/a_7_0#
+ P3 d vdd c b a nor_5_cmos_0/a_39_0# G3 nor_5_cmos_0/a_55_0# nor_5_cmos
Xinv_cmos_13 nor_3_cmos_0/Y inv_cmos_13/w_0_0# P3 vdd C2 inv_cmos
Xnand_5_cmos_0 nand_5_cmos_0/a_7_n121# inv_cmos_0/w_0_0# nand_5_cmos_0/a_55_n121#
+ inv_cmos_0/IN P3 nand_5_cmos_0/a_39_n121# nand_5_cmos_0/a_23_n121# C0 vdd P0 P1
+ P2 P3 nand_5_cmos
Xinv_cmos_0 inv_cmos_0/IN inv_cmos_0/w_0_0# P3 vdd a inv_cmos
Xinv_cmos_1 inv_cmos_1/IN inv_cmos_1/w_0_0# P3 vdd b inv_cmos
Xinv_cmos_2 inv_cmos_2/IN inv_cmos_2/w_0_0# P3 vdd c inv_cmos
C0 inv_cmos_0/IN P2 0.77fF
C1 d c 1.21fF
C2 nor_3_cmos_0/Y nor_5_cmos_0/a_7_0# 0.11fF
C3 nand_3_cmos_2/a_23_n81# P1 0.45fF
C4 vdd nor_3_cmos_0/Y 0.19fF
C5 i P0 0.02fF
C6 nor_5_cmos_0/a_39_0# nor_3_cmos_0/Y 0.08fF
C7 G0 P3 0.24fF
C8 g vdd 0.12fF
C9 inv_cmos_7/IN C0 0.02fF
C10 P3 inv_cmos_2/IN 0.80fF
C11 b nor_5_cmos_0/w_n6_n6# 0.54fF
C12 P2 P1 0.42fF
C13 P2 nand_3_cmos_0/a_7_n81# 0.13fF
C14 P3 h 0.55fF
C15 P2 vdd 0.18fF
C16 inv_cmos_2/w_0_0# inv_cmos_2/IN 0.00fF
C17 P2 inv_cmos_5/IN 0.15fF
C18 nor_3_cmos_0/a_23_0# j 0.17fF
C19 inv_cmos_4/IN P1 0.80fF
C20 G0 nand_cmos_2/a_7_n61# 0.22fF
C21 P2 nand_5_cmos_0/a_7_n121# 0.17fF
C22 P3 i 0.05fF
C23 g f 0.01fF
C24 a P3 0.70fF
C25 vdd inv_cmos_4/IN 0.55fF
C26 P2 G1 0.09fF
C27 G0 j 0.01fF
C28 P3 d 0.10fF
C29 g nor_4_cmos_0/w_n6_n6# 0.40fF
C30 P2 nand_5_cmos_0/a_55_n121# 0.08fF
C31 nor_3_cmos_0/w_n6_n6# vdd 0.07fF
C32 h j 0.01fF
C33 vdd nand_cmos_1/Y 0.55fF
C34 G3 nor_3_cmos_0/Y 0.00fF
C35 nor_5_cmos_0/a_55_0# nor_3_cmos_0/Y 0.11fF
C36 nor_cmos_0/a_7_0# vdd 0.10fF
C37 nor_cmos_0/Y C1 0.01fF
C38 G0 C0 0.02fF
C39 nor_3_cmos_0/Y c 0.06fF
C40 nor_cmos_0/Y nor_5_cmos_0/a_23_0# 0.04fF
C41 j i 0.01fF
C42 a nor_5_cmos_0/w_n6_n6# 0.66fF
C43 h C0 0.00fF
C44 inv_cmos_0/IN P1 0.72fF
C45 inv_cmos_7/IN inv_cmos_7/w_0_0# -0.00fF
C46 i C0 0.01fF
C47 P2 nand_5_cmos_0/a_23_n121# 0.17fF
C48 inv_cmos_0/IN vdd 0.55fF
C49 nand_4_cmos_1/a_39_n101# P1 0.20fF
C50 vdd inv_cmos_3/w_0_0# 0.03fF
C51 P0 nand_3_cmos_2/a_23_n81# 0.02fF
C52 vdd nor_4_cmos_0/a_39_0# 0.10fF
C53 P3 nand_4_cmos_0/a_39_n101# 0.47fF
C54 j nor_3_cmos_0/a_7_0# 0.17fF
C55 P2 inv_cmos_0/w_0_0# 0.36fF
C56 P2 P0 0.08fF
C57 P2 nand_4_cmos_0/a_7_n101# 0.11fF
C58 vdd P1 0.18fF
C59 b nor_5_cmos_0/a_23_0# 0.79fF
C60 P3 nor_3_cmos_0/Y 0.18fF
C61 C0 inv_cmos_8/w_0_0# 0.03fF
C62 P2 inv_cmos_5/w_0_0# 0.10fF
C63 nand_5_cmos_0/a_7_n121# P1 0.10fF
C64 P0 inv_cmos_4/IN 0.71fF
C65 vdd nand_cmos_0/Y 0.55fF
C66 vdd inv_cmos_5/IN 0.55fF
C67 P3 nand_3_cmos_2/a_23_n81# 0.07fF
C68 nor_5_cmos_0/Y nor_cmos_0/Y 0.06fF
C69 nor_cmos_0/Y inv_cmos_10/w_0_0# 0.01fF
C70 P2 P3 0.83fF
C71 vdd G1 0.48fF
C72 nand_5_cmos_0/a_55_n121# P1 0.01fF
C73 nand_cmos_3/a_7_n61# G0 0.03fF
C74 nor_3_cmos_0/Y nor_5_cmos_0/w_n6_n6# 0.02fF
C75 f vdd 0.12fF
C76 j nor_3_cmos_0/Y 0.09fF
C77 vdd C4 0.03fF
C78 b nor_cmos_0/Y 0.08fF
C79 P3 inv_cmos_4/IN 0.34fF
C80 vdd inv_cmos_12/w_0_0# 0.02fF
C81 vdd nor_4_cmos_0/w_n6_n6# 0.08fF
C82 vdd nand_cmos_2/Y 0.55fF
C83 f G1 0.09fF
C84 P3 nand_cmos_1/Y 0.30fF
C85 G0 nand_cmos_3/Y 0.04fF
C86 P2 nand_4_cmos_0/C 0.03fF
C87 a nor_5_cmos_0/a_23_0# 0.12fF
C88 inv_cmos_0/IN P0 0.78fF
C89 vdd inv_cmos_1/w_0_0# 0.03fF
C90 nand_5_cmos_0/a_23_n121# P1 0.72fF
C91 vdd c 0.03fF
C92 f nor_4_cmos_0/w_n6_n6# 0.28fF
C93 inv_cmos_0/w_0_0# P1 0.36fF
C94 P2 C0 0.08fF
C95 vdd inv_cmos_6/w_0_0# 0.04fF
C96 G0 e 0.09fF
C97 P0 P1 0.33fF
C98 inv_cmos_1/w_0_0# G1 0.01fF
C99 nand_4_cmos_0/a_7_n101# P1 0.01fF
C100 inv_cmos_0/w_0_0# vdd 0.02fF
C101 nor_3_cmos_0/w_n6_n6# j 0.22fF
C102 vdd P0 0.18fF
C103 inv_cmos_0/IN P3 0.54fF
C104 nor_cmos_0/a_7_0# j 0.32fF
C105 a nor_cmos_0/Y 0.08fF
C106 nand_5_cmos_0/a_7_n121# P0 0.69fF
C107 vdd inv_cmos_5/w_0_0# 0.04fF
C108 nor_cmos_0/Y d 0.06fF
C109 inv_cmos_5/w_0_0# inv_cmos_5/IN 0.00fF
C110 inv_cmos_13/w_0_0# nor_3_cmos_0/Y 0.03fF
C111 P3 P1 0.60fF
C112 nor_cmos_0/w_n6_n6# vdd 0.04fF
C113 nand_3_cmos_0/a_7_n81# P3 0.22fF
C114 vdd P3 0.60fF
C115 G3 nor_5_cmos_0/a_55_0# 0.02fF
C116 P3 nand_cmos_0/Y 0.51fF
C117 b h 0.06fF
C118 P3 inv_cmos_5/IN 0.30fF
C119 G0 nor_3_cmos_0/a_23_0# 0.07fF
C120 nand_cmos_2/Y P0 0.02fF
C121 nand_5_cmos_0/a_7_n121# P3 0.24fF
C122 vdd inv_cmos_2/w_0_0# 0.04fF
C123 g nor_4_cmos_0/a_23_0# 0.48fF
C124 nor_3_cmos_0/Y nor_5_cmos_0/a_23_0# 0.08fF
C125 P3 G1 0.23fF
C126 P0 nand_cmos_2/B 0.00fF
C127 b i 0.08fF
C128 b a 0.09fF
C129 nand_3_cmos_1/a_23_n81# P1 0.12fF
C130 nand_5_cmos_0/a_55_n121# P3 0.84fF
C131 inv_cmos_9/w_0_0# vdd 0.02fF
C132 f P3 0.17fF
C133 G0 h 0.07fF
C134 b d 0.09fF
C135 P3 C4 0.03fF
C136 nor_3_cmos_0/a_23_0# i 0.07fF
C137 vdd nor_5_cmos_0/w_n6_n6# 0.01fF
C138 P2 inv_cmos_4/w_0_0# 0.43fF
C139 vdd j 0.17fF
C140 P3 nand_cmos_2/Y 0.51fF
C141 G0 i 0.05fF
C142 C0 P1 0.24fF
C143 inv_cmos_4/w_0_0# inv_cmos_4/IN 0.00fF
C144 inv_cmos_0/w_0_0# P0 0.36fF
C145 a G0 0.19fF
C146 j G1 0.01fF
C147 h i 0.00fF
C148 P2 inv_cmos_1/IN 0.05fF
C149 a h 0.01fF
C150 P3 c 0.73fF
C151 nand_5_cmos_0/a_23_n121# P3 0.24fF
C152 g e 0.01fF
C153 a i 0.01fF
C154 nor_5_cmos_0/Y nor_3_cmos_0/Y 0.05fF
C155 G0 nor_3_cmos_0/a_7_0# 0.07fF
C156 inv_cmos_0/w_0_0# P3 0.15fF
C157 P3 P0 0.26fF
C158 P3 nand_4_cmos_0/a_7_n101# 0.24fF
C159 inv_cmos_3/w_0_0# G2 0.35fF
C160 a d 0.09fF
C161 nor_4_cmos_0/a_39_0# G2 2.24fF
C162 P2 e 0.09fF
C163 nand_cmos_2/Y C0 0.02fF
C164 b nor_3_cmos_0/Y 0.09fF
C165 vdd inv_cmos_13/w_0_0# 0.01fF
C166 C0 nand_cmos_2/B 0.00fF
C167 nor_3_cmos_0/a_7_0# i 0.11fF
C168 P3 nand_cmos_0/a_7_n61# 0.47fF
C169 P0 nand_cmos_2/a_7_n61# 0.02fF
C170 P2 nand_5_cmos_0/a_39_n121# 0.32fF
C171 vdd G2 0.18fF
C172 inv_cmos_4/w_0_0# P1 0.36fF
C173 b P2 0.09fF
C174 inv_cmos_7/w_0_0# P1 0.02fF
C175 P2 nand_4_cmos_0/a_23_n101# 0.18fF
C176 vdd nor_4_cmos_0/a_23_0# 0.10fF
C177 vdd C1 0.03fF
C178 G0 nor_3_cmos_0/Y 0.04fF
C179 vdd inv_cmos_4/w_0_0# 0.02fF
C180 vdd inv_cmos_7/w_0_0# 0.03fF
C181 g nor_4_cmos_0/a_7_0# 0.17fF
C182 inv_cmos_0/w_0_0# C0 0.35fF
C183 P3 nand_cmos_2/a_7_n61# 0.16fF
C184 P0 C0 0.48fF
C185 nor_cmos_0/w_n6_n6# j 0.23fF
C186 P3 nand_4_cmos_0/C 0.01fF
C187 P2 G0 0.14fF
C188 nor_4_cmos_0/w_n6_n6# G2 1.17fF
C189 b nor_3_cmos_0/w_n6_n6# 0.51fF
C190 vdd inv_cmos_1/IN 0.55fF
C191 a nor_3_cmos_0/Y 0.34fF
C192 vdd nand_cmos_3/Y 0.55fF
C193 nor_3_cmos_0/Y d 0.06fF
C194 nor_cmos_0/Y nor_5_cmos_0/a_7_0# 0.11fF
C195 P3 C0 0.08fF
C196 vdd nor_cmos_0/Y 0.22fF
C197 inv_cmos_1/IN G1 0.12fF
C198 nor_5_cmos_0/a_39_0# nor_cmos_0/Y 0.08fF
C199 c G2 0.05fF
C200 G0 nor_3_cmos_0/w_n6_n6# 0.09fF
C201 e P1 0.17fF
C202 a P2 0.09fF
C203 inv_cmos_7/IN P1 0.15fF
C204 vdd e 0.03fF
C205 vdd inv_cmos_7/IN 0.55fF
C206 P0 nand_3_cmos_2/a_7_n81# 0.47fF
C207 nand_5_cmos_0/a_39_n121# P1 0.01fF
C208 inv_cmos_9/w_0_0# C0 0.01fF
C209 vdd inv_cmos_10/w_0_0# 0.34fF
C210 nor_3_cmos_0/w_n6_n6# i 0.01fF
C211 nor_cmos_0/Y C4 0.05fF
C212 inv_cmos_12/w_0_0# nor_cmos_0/Y 0.01fF
C213 vdd nor_4_cmos_0/Y 0.03fF
C214 inv_cmos_4/w_0_0# P0 0.36fF
C215 b nor_5_cmos_0/a_7_0# 0.17fF
C216 f e 0.11fF
C217 inv_cmos_0/IN G0 0.07fF
C218 nand_cmos_3/a_7_n61# P0 0.01fF
C219 b vdd 0.12fF
C220 P3 G2 0.01fF
C221 P3 nand_3_cmos_2/a_7_n81# 0.07fF
C222 nor_4_cmos_0/w_n6_n6# e 0.14fF
C223 nand_3_cmos_0/a_23_n81# P3 0.45fF
C224 G3 nor_cmos_0/Y 0.00fF
C225 nor_5_cmos_0/a_55_0# nor_cmos_0/Y 0.11fF
C226 nor_3_cmos_0/a_23_0# vdd 0.10fF
C227 nor_cmos_0/Y c 0.06fF
C228 b G1 0.14fF
C229 G0 P1 0.09fF
C230 P3 C1 0.03fF
C231 P2 nand_4_cmos_0/a_39_n101# 0.08fF
C232 P3 inv_cmos_4/w_0_0# 0.13fF
C233 G0 vdd 0.52fF
C234 h P1 0.05fF
C235 nand_cmos_3/a_7_n61# P3 0.16fF
C236 vdd nor_4_cmos_0/a_7_0# 0.10fF
C237 vdd inv_cmos_2/IN 0.55fF
C238 G3 nor_5_cmos_0/Y 0.05fF
C239 vdd h 0.03fF
C240 G0 G1 0.02fF
C241 a P1 0.02fF
C242 P3 inv_cmos_1/IN 1.02fF
C243 vdd i 0.09fF
C244 inv_cmos_7/IN P0 0.02fF
C245 a nor_5_cmos_0/a_7_0# 0.17fF
C246 h G1 0.00fF
C247 a vdd 0.12fF
C248 P3 nand_cmos_3/Y 0.51fF
C249 a nor_5_cmos_0/a_39_0# 1.04fF
C250 f nor_4_cmos_0/a_7_0# 0.34fF
C251 nor_cmos_0/w_n6_n6# nor_cmos_0/Y 0.01fF
C252 b c 0.09fF
C253 nand_4_cmos_1/a_23_n101# P1 0.21fF
C254 vdd d 0.03fF
C255 G0 nand_cmos_2/Y 0.04fF
C256 P3 nor_cmos_0/Y 0.09fF
C257 i G1 0.00fF
C258 inv_cmos_8/w_0_0# P1 0.01fF
C259 a G1 0.06fF
C260 P2 inv_cmos_4/IN 0.80fF
C261 G0 nand_cmos_2/B 0.04fF
C262 vdd inv_cmos_8/w_0_0# 0.04fF
C263 inv_cmos_4/w_0_0# C0 0.36fF
C264 P3 e 0.17fF
C265 C0 inv_cmos_7/w_0_0# 0.04fF
C266 P3 inv_cmos_7/IN 0.72fF
C267 nand_3_cmos_1/a_7_n81# P1 0.20fF
C268 vdd nor_3_cmos_0/a_7_0# 0.10fF
C269 nor_5_cmos_0/Y P3 0.03fF
C270 nor_cmos_0/Y nor_5_cmos_0/w_n6_n6# 0.02fF
C271 nand_5_cmos_0/a_39_n121# P3 0.24fF
C272 P3 nor_4_cmos_0/Y 0.03fF
C273 G0 inv_cmos_0/w_0_0# 0.01fF
C274 G0 P0 0.10fF
C275 b P3 0.32fF
C276 a G3 0.04fF
C277 P3 nand_4_cmos_0/a_23_n101# 0.24fF
C278 nand_cmos_2/Y inv_cmos_8/w_0_0# -0.00fF
C279 h P0 0.02fF
C280 a c 0.09fF
C281 P3 Gnd 2.86fF
C282 vdd Gnd 0.78fF
C283 inv_cmos_0/IN Gnd -0.00fF
C284 P2 Gnd 0.62fF
C285 C2 Gnd 0.02fF
C286 nor_3_cmos_0/Y Gnd 0.27fF
C287 nor_5_cmos_0/Y Gnd 0.06fF
C288 G3 Gnd 0.02fF
C289 a Gnd 0.34fF
C290 b Gnd -2.90fF
C291 c Gnd 0.32fF
C292 d Gnd 0.35fF
C293 C1 Gnd 0.02fF
C294 nor_cmos_0/Y Gnd 0.18fF
C295 G0 Gnd -1.60fF
C296 C4 Gnd 0.02fF
C297 inv_cmos_1/IN Gnd 0.01fF
C298 C3 Gnd 0.02fF
C299 P1 Gnd 0.64fF
C300 nand_cmos_1/Y Gnd 0.01fF
C301 G2 Gnd -3.10fF
C302 P0 Gnd 0.33fF
C303 C0 Gnd 0.34fF
C304 inv_cmos_5/IN Gnd 0.01fF
C305 nor_4_cmos_0/Y Gnd 0.06fF
C306 inv_cmos_2/IN Gnd 0.01fF
C307 j Gnd 0.25fF
C308 nand_cmos_3/Y Gnd 0.01fF
C309 i Gnd 0.10fF
C310 nand_cmos_2/Y Gnd 0.01fF
C311 G1 Gnd 0.25fF
C312 h Gnd 0.10fF
C313 inv_cmos_7/IN Gnd 0.01fF
C314 g Gnd 0.30fF
C315 f Gnd 0.30fF
C316 e Gnd -2.22fF
C317 inv_cmos_4/IN Gnd 0.01fF
C318 nand_cmos_0/Y Gnd 0.01fF
.end

.tran 1n 1280n 

.measure tran t_in WHEN v(C2)=0.5*SUPPLY CROSS=2
.measure tran t_out WHEN v(C3)=0.5*SUPPLY CROSS=1
.measure tran t_delay PARAM='t_out-t_in'

.control
    set hcopypscolor = 1
    set color0=beige
    set color1=black
    set color2=blue
    set color3=darkgreen
    set color4=darkred
    set color5=darkviolet
    set color6=darkorange

    run
    plot v(C0)+16 v(G0)+14 v(P0)+12 v(G1)+10 v(P1)+8 v(G2)+6 v(P2)+4 v(G3)+2 v(P3) v(C1)-2 v(C2)-4 v(C3)-6 v(C4)-8
.endc